Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Isoniazid / Elavil / Dilantin Kapseal / Zomig
 
Attending: ___.
 
Chief Complaint:
abdominal pain, n/v
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with h/o OSA,
thalassemia/HbC trait, asthma/allergies, who presents with acute
epigastric pain.  The patient states that the pain started 2 
days
ago in the middle of his upper abdomen.  He describes the pain 
as
a burning and tightness.  The pain has been constant with
fluctuation as well.  He went to the ___ where he had a
normal abd US and improved with a GI cocktail and was sent home. 

The pain returned and has worsened since then.  It is partially
relieved by lying down.  It does not radiate.  He reports nausea
and chills but no fever, sore throat, pain with swallowing, CP,
SOB, cough, bloody or black BMs.  He does report several 
episodes
of non bloody diarrhea yesterday.  Given lack of improvement and
poor PO intake overall, he was instructed by his PCP to be seen. 

He does report use of Ibuprofen a few weeks ago, but only 3 days
worth.
 
Past Medical History:
OSA
Asthma/seasonal allergies
Thalassemia/hgb C trait
Leukopenia
Migraines
h/o seizure
h/o hydrocele
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
Admission exam
VITALS: ___ 1708 Temp: 98.5 PO BP: 131/87 HR: 54 RR: 14 O2
sat: 99% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild tenderness in epigastric
region, improved from day prior. Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs

___ 07:50PM BLOOD WBC-5.1 RBC-4.79 Hgb-13.5* Hct-38.8* 
MCV-81* MCH-28.2 MCHC-34.8 RDW-13.6 RDWSD-39.6 Plt ___
___ 07:50PM BLOOD Neuts-46.5 ___ Monos-7.9 Eos-0.2* 
Baso-0.6 Im ___ AbsNeut-2.37 AbsLymp-2.27 AbsMono-0.40 
AbsEos-0.01* AbsBaso-0.03
___ 07:50PM BLOOD Glucose-114* UreaN-8 Creat-1.0 Na-139 
K-4.2 Cl-102 HCO3-25 AnGap-12
___ 07:50PM BLOOD ALT-32 AST-20 AlkPhos-51 TotBili-0.4
___ 07:50PM BLOOD Albumin-4.8 Calcium-10.0 Phos-2.9 Mg-2.0

Discharge labs

___ 05:55AM BLOOD WBC-3.3* RBC-5.25 Hgb-14.8 Hct-42.9 
MCV-82 MCH-28.2 MCHC-34.5 RDW-13.5 RDWSD-39.9 Plt ___
___ 05:55AM BLOOD Glucose-110* UreaN-8 Creat-1.0 Na-142 
K-4.6 Cl-101 HCO3-28 AnGap-13
___ 05:55AM BLOOD ALT-26 AST-16 AlkPhos-51 TotBili-0.6
___ 05:55AM BLOOD Mg-2.___/P ___
FINDINGS: 
 
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no
evidence of pleural or pericardial effusion.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. 
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic
stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. 
There is no evidence of focal renal lesions or hydronephrosis.  
There is no
perinephric abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout. The 
colon and
rectum are within normal limits. The appendix is normal.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no
free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
grossly
unremarkable.
 
LYMPH NODES: There is no retroperitoneal lymphadenopathy.  
Prominent
mesenteric lymph nodes are seen particularly in the right lower 
quadrant
measuring up to 8 mm (2; 48, 50).  There is no pelvic or 
inguinal
lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease
is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: An umbilical hernia containing fat is noted.
 
IMPRESSION:
 
 
1. Nonspecific prominent right lower quadrant mesenteric lymph 
nodes, which may represent mesenteric adenitis, recommend 
clinical correlation.  Otherwise, no acute intra-abdominal 
process.
 
Brief Hospital Course:
Mr. ___ is a ___ man with OSA and allergies who 
presents with acute epigastric pain and nausea with non-specific 
CT findings.

# Presumed acute gastroenteritis vs. gastritis: Diagnosis based 
on sxs of epigastric pain, nausea, and diarrhea episodes with 
negative lab and CT findings although diarrhea now resolved.  
Other considerations include gastritis or PUD.  He did use 
NSAIDS although only for a limited trial.  Patient was seen by 
GI who recommended conservative management and slow advancement 
of diet, felt symptoms more likely due to acute gastroenteritis. 
His symptoms were controlled with maalox, viscous lidocaine, and 
H2 blockers. He tolerated a general diet at time of discharge. 

# OSA: Uses CPAP at home

# Allergies/Asthma: Mild and overall well controlled.  He uses 
medications on a prn
basis
- Cont home regimen on DC

Greater than 30 minutes were spent providing and coordinating 
care for this patient on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN sob 
3. Loratadine 10 mg PO DAILY:PRN allergies 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heartburn  
3.  Lidocaine Viscous 2% 15 mL PO TID:PRN abdominal pain  
Can mix with maalox 
RX *lidocaine HCl [Lidocaine Viscous] 2 % take by mouth three 
times a day Refills:*0 
4.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Gavilax] 8.5 gram 2 packet(s) by 
mouth once a day Disp #*20 Packet Refills:*0 
6.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
7.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tablet(s) by mouth twice a day Disp #*20 
Tablet Refills:*0 
8.  TraMADol 25 mg PO BID:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0 
9.  Albuterol Inhaler ___ PUFF IH Q6H:PRN sob  
10.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN 
sob  
11.  Loratadine 10 mg PO DAILY:PRN allergies  
12.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis vs. gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for abdominal pain. You had labs which were 
normal and a CT scan without concerning findings. The GI team 
evaluated you and your symptoms are thought to be a result of 
gastroenteritis or gastritis. You should continue taking the 
medications prescribed for symptom control. 

Thank you for allowing us to participate in your care, 
Your ___ team
 
Followup Instructions:
___